US04771046
(4) p-Nitrobenzyl (1RS,5S,6S)-2-phenylthio-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
300 μl of acetic acid and 2.1 ml of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran were added to a solution of 298 mg of p-nitrobenzyl (1RS,5S,6S)-2-phenylthio-6-[(1R)-1-t-butyldimethylsilyl-oxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate in 6.4 ml of tetrahydrofuran, kept at 0° to 5° C. with ice-water cooling. The mixture was kept stirred overnight at room temperature, and then for 4 hours in an oil bath at 30° C. The reaction mixture was then diluted with ethyl acetate and washed successively with saturated aqueous sodium chloride solution, 5% aqueous sodium bicarbonate solution, and again saturated aqueous sodium chloride solution. The solvent was distilled off, and the resulting residue was chromatographed on a column of silica gel using a 3/1 mixture of benzene/ethyl acetate as eluent, giving 57 mg of the title compound as pale yellow crystals.

reactant | acetic acid | 300 μl | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | p-nitrobenzyl (1RS,5S,6S)-2-phenylthio-6-[(1R)-1-t-butyldimethylsilyl-oxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 298 mg | C1(=CC=CC=C1)SC=1C([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@H]2[C@@H](CO[SiH](C)C)C(C)(C)C)=O)C | C29H36N2O6SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl (1RS,5S,6S)-2-phenylthio-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 57 mg | C1(=CC=CC=C1)SC=1C([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C23H22N2O6S
